US07049438B2
4-(6-chloro-2,3-methylenedioxyanilino)-7-methoxy-5-piperidin-4-yloxyquinazoline
A mixture of 5-(1-tert-butoxycarbonylpiperidin-4-yloxy)-4-(6-chloro-2,3-methylenedioxyanilino)-7-methoxyquinazoline dihydrochloride (2.39 g), trifluoroacetic acid (10 ml) and methylene chloride (35 ml) was stirred at ambient temperature for 1.5 hours. The mixture was evaporated and the residue was partitioned between ethyl acetate and a 1N aqueous sodium hydroxide solution. The organic layer was washed with water and brine, dried over magnesium sulphate and evaporated. The residue was purified by column chromatography on silica using a 19:1 mixture of methylene chloride and methanol as eluent. There was thus obtained the title compound (1.44 g); NMR Spectrum: (CDCl3) 1.8–2.0 (m, 2H), 2.15–2.3 (m, 2H), 2.75–2.9 (m, 2H), 3.1–3.2 (m, 2H), 3.9 (s, 3H), 4.65 (m, 1H), 6.0 (s, 2H), 6.46 (d, 1H), 6.72 (d, 1H), 6.8 (d, 1H), 6.91 (d, 1H), 8.5 (s, 1H), 9.21 (s, 1H); Mass Spectrum: M+H+ 429 and 431.

reactant | 5-(1-tert-butoxycarbonylpiperidin-4-yloxy)-4-(6-chloro-2,3-methylenedioxyanilino)-7-methoxyquinazoline dihydrochloride | 2.39 g | Cl.Cl.C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=C2C(=NC=NC2=CC(=C1)OC)NC1=C2C(=CC=C1Cl)OCO2
reactant | trifluoroacetic acid | 10 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 35 ml | C(Cl)Cl | CH2Cl2
product | 4-(6-chloro-2,3-methylenedioxyanilino)-7-methoxy-5-piperidin-4-yloxyquinazoline | 1.44 g | ClC1=CC=C2C(=C1NC1=NC=NC3=CC(=CC(=C13)OC1CCNCC1)OC)OCO2 | C21H21ClN4O4
